### PR TITLE
[Merged by Bors] - feat(Data/ZMod/Basic): more ringEquivCongr API

### PR DESCRIPTION
**Pull request by kbuzzard**
Add rfl, symm and trans lemmas for ringEquivCongr.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Data/ZMod/Basic.lean [hunk 1]
```diff
@@ -456,6 +456,21 @@ def ringEquivCongr {m n : ℕ} (h : m = n) : ZMod m ≃+* ZMod n := by
           rw [Fin.coe_cast, Fin.val_add, Fin.val_add, Fin.coe_cast, Fin.coe_cast, ← h] }
 #align zmod.ring_equiv_congr ZMod.ringEquivCongr
 
+lemma ringEquivCongr_rfl {a : ℕ} (x : ZMod a) : ZMod.ringEquivCongr rfl x = x := by
+  cases a <;> rfl
+
+lemma ringEquivCongr_symm {a b : ℕ} (hab : a = b) (x : ZMod a) (y : ZMod b)
```
Comment (riccardobrasca) [inline Mathlib/Data/ZMod/Basic.lean:462]: Can you state this by saying that if `h : a = b` and `h' : b = a`, then `(ZMod.ringEquivCongr h).symm = ZMod.ringEquivCongr h'`?

I am wondering if it is worth to use `h'` also in your statement (they're of course the same, but I am not sure whether `rw` is smart enough to see through proof irrelevance, and I am afraid is not).

Same for transitivity below.

Comment (alreadydone) [reply Mathlib/Data/ZMod/Basic.lean:462]: I think your suggestion doesn't make it more general because all proofs are defeq ...

Comment (riccardobrasca) [reply Mathlib/Data/ZMod/Basic.lean:462]: I don't claim it is more general (as you say it surely isn't): I am just not sure `rw` or whatever will always realize it.

Comment (alreadydone) [reply Mathlib/Data/ZMod/Basic.lean:462]: I think the following shows this shouldn't be a concern; `← ringEquivCongr_symm hba.symm` produces `hba.symm.symm` on the RHS and Lean has no trouble unifying it with `hba`.
```
lemma ringEquivCongr_symm {a b : ℕ} (hab : a = b) :
    (ZMod.ringEquivCongr hab).symm = ZMod.ringEquivCongr hab.symm := by
  subst hab; cases a <;> rfl

lemma ringEquivCongr_symm' {a b : ℕ} (hab : a = b) (hba : b = a) :
    (ZMod.ringEquivCongr hab).symm = ZMod.ringEquivCongr hba := by
  rw [← ringEquivCongr_symm hba.symm] -- works
```

Comment (riccardobrasca) [reply Mathlib/Data/ZMod/Basic.lean:462]: I was too lazy to make this test, thanks!

Comment (alreadydone) [reply Mathlib/Data/ZMod/Basic.lean:462]: The current `ringEquivCongr_symm` can be proved using my `ringEquivCongr_symm` as follows, so I'm not sure we should have it in mathlib:
```
lemma ringEquivCongr_symm'' {a b : ℕ} (hab : a = b) (x : ZMod a) (y : ZMod b) :
    y = ZMod.ringEquivCongr hab x ↔ x = ZMod.ringEquivCongr hab.symm y := by
  rw [← ringEquivCongr_symm hab, eq_comm]; symm; apply Equiv.eq_symm_apply
```

Comment (kbuzzard) [reply Mathlib/Data/ZMod/Basic.lean:462]: FWIW [here](https://github.com/leanprover-community/mathlib4/blob/d6631726d30ff5fddbfd2a01d7dac9096c18ba17/Mathlib/NumberTheory/Cyclotomic/CyclotomicCharacter.lean#L198-L203) is my application.

File: Mathlib/Data/ZMod/Basic.lean [hunk 2]
```diff
@@ -456,6 +456,21 @@ def ringEquivCongr {m n : ℕ} (h : m = n) : ZMod m ≃+* ZMod n := by
           rw [Fin.coe_cast, Fin.val_add, Fin.val_add, Fin.coe_cast, Fin.coe_cast, ← h] }
 #align zmod.ring_equiv_congr ZMod.ringEquivCongr
 
+lemma ringEquivCongr_rfl {a : ℕ} (x : ZMod a) : ZMod.ringEquivCongr rfl x = x := by
```
Comment (eric-wieser) [inline Mathlib/Data/ZMod/Basic.lean:459]:
```suggestion
@[simp] lemma ringEquivCongr_rfl {a : ℕ} : ZMod.ringEquivCongr (rfl : a = a) = .id _ := by
```

File: Mathlib/Data/ZMod/Basic.lean [hunk 3]
```diff
@@ -456,6 +456,21 @@ def ringEquivCongr {m n : ℕ} (h : m = n) : ZMod m ≃+* ZMod n := by
...
+
+lemma ringEquivCongr_symm {a b : ℕ} (hab : a = b) (x : ZMod a) (y : ZMod b)
+    (hyz : y = ZMod.ringEquivCongr hab x) : x = ZMod.ringEquivCongr hab.symm y := by
+  subst hab hyz
+  cases a <;> rfl
+
+lemma ringEquivCongr_trans {a b c : ℕ} (hab : a = b) (hbc : b = c)
+    (x : ZMod a) (y : ZMod b) (z : ZMod c)
+    (hyx : y = ZMod.ringEquivCongr hab x) (hzy : z = ZMod.ringEquivCongr hbc y) :
+    z = ZMod.ringEquivCongr (hbc ▸ hab) x := by
```
Comment (alreadydone) [inline Mathlib/Data/ZMod/Basic.lean:470]: By the same token, this should probably be
```suggestion
@[simp] lemma ringEquivCongr_trans {a b c : ℕ} (hab : a = b) (hbc : b = c) :
    (ZMod.ringEquivCongr hab).trans (ZMod.ringEquivCongr hbc) = ZMod.ringEquivCongr (hbc ▸ hab) :=
  by ...
```

File: Mathlib/Data/ZMod/Basic.lean (hunk 2 above)
Comment (kbuzzard) [reply Mathlib/Data/ZMod/Basic.lean]: (It appears to be `.refl`)

File: Mathlib/Data/ZMod/Basic.lean (hunk 1 above)
Comment (kbuzzard) [reply Mathlib/Data/ZMod/Basic.lean]: I've gone with `alreadydone`'s `symm`.

File: Mathlib/Data/ZMod/Basic.lean [hunk 4]
```diff
@@ -456,6 +456,32 @@ def ringEquivCongr {m n : ℕ} (h : m = n) : ZMod m ≃+* ZMod n := by
...
+    (ringEquivCongr hab).symm = ringEquivCongr hab.symm := by
+  subst hab
+  cases a <;> rfl
+
+lemma ringEquivCongr_symm_apply {a b : ℕ} (hab : a = b) (y : ZMod b) :
+    (ringEquivCongr hab).symm y = ringEquivCongr hab.symm y := by
+  rw [ringEquivCongr_symm]
+
+lemma ringEquivCongr_trans {a b c : ℕ} (hab : a = b) (hbc : b = c) :
+    (ringEquivCongr hab).trans (ringEquivCongr hbc) = (ringEquivCongr (hab ▸ hbc)) := by
```
Comment (alreadydone) [inline Mathlib/Data/ZMod/Basic.lean:476]:
```suggestion
    (ringEquivCongr hab).trans (ringEquivCongr hbc) = ringEquivCongr (hab ▸ hbc) := by
```

File: Mathlib/Data/ZMod/Basic.lean [hunk 5]
```diff
@@ -456,6 +456,32 @@ def ringEquivCongr {m n : ℕ} (h : m = n) : ZMod m ≃+* ZMod n := by
...
+  subst hab hbc
+  cases a <;> rfl
+
+lemma ringEquivCongr_trans_apply {a b c : ℕ} (hab : a = b) (hbc : b = c) (x : ZMod a) :
+    (ringEquivCongr hbc) ((ringEquivCongr hab) x) = (ringEquivCongr (hab ▸ hbc)) x := by
```
Comment (alreadydone) [inline Mathlib/Data/ZMod/Basic.lean:481]: if you like
```suggestion
    (ringEquivCongr hbc) (ringEquivCongr hab x) = ringEquivCongr (hab ▸ hbc) x := by
```

File: Mathlib/Data/ZMod/Basic.lean [hunk 6]
```diff
@@ -456,6 +456,32 @@ def ringEquivCongr {m n : ℕ} (h : m = n) : ZMod m ≃+* ZMod n := by
...
+  rfl
+
+lemma ringEquivCongr_symm {a b : ℕ} (hab : a = b) :
+    (ringEquivCongr hab).symm = ringEquivCongr hab.symm := by
+  subst hab
+  cases a <;> rfl
+
+lemma ringEquivCongr_symm_apply {a b : ℕ} (hab : a = b) (y : ZMod b) :
+    (ringEquivCongr hab).symm y = ringEquivCongr hab.symm y := by
+  rw [ringEquivCongr_symm]
```
Comment (alreadydone) [inline Mathlib/Data/ZMod/Basic.lean:473]: This is simply `DFunLike.congr_fun (ringEquivCongr_symm hab) y` so I think we don't need it ...

Comment (kbuzzard) [reply Mathlib/Data/ZMod/Basic.lean:473]: I wrote it because I thought I needed it in the application but indeed I didn't.

File: Mathlib/Data/ZMod/Basic.lean [hunk 7]
```diff
@@ -456,6 +456,28 @@ def ringEquivCongr {m n : ℕ} (h : m = n) : ZMod m ≃+* ZMod n := by
...
+  rw [ringEquivCongr_refl]
+  rfl
+
+lemma ringEquivCongr_symm {a b : ℕ} (hab : a = b) :
+    (ringEquivCongr hab).symm = ringEquivCongr hab.symm := by
+  subst hab
+  cases a <;> rfl
+
+lemma ringEquivCongr_trans {a b c : ℕ} (hab : a = b) (hbc : b = c) :
+    (ringEquivCongr hab).trans (ringEquivCongr hbc) = ringEquivCongr (hab ▸ hbc) := by
```
Comment (eric-wieser) [inline Mathlib/Data/ZMod/Basic.lean:472]:
```suggestion
    (ringEquivCongr hab).trans (ringEquivCongr hbc) = ringEquivCongr (hab.trans hbc) := by
```

Comment (kbuzzard) [reply Mathlib/Data/ZMod/Basic.lean:472]: Yeah this did occur to me when I was writing it! I can't imagine it makes much difference.

File: Mathlib/Data/ZMod/Basic.lean [hunk 8]
```diff
@@ -456,6 +456,28 @@ def ringEquivCongr {m n : ℕ} (h : m = n) : ZMod m ≃+* ZMod n := by
...
+  subst hab
+  cases a <;> rfl
+
+lemma ringEquivCongr_trans {a b c : ℕ} (hab : a = b) (hbc : b = c) :
+    (ringEquivCongr hab).trans (ringEquivCongr hbc) = ringEquivCongr (hab.trans hbc) := by
+  subst hab hbc
+  cases a <;> rfl
+
+lemma ringEquivCongr_trans_apply {a b c : ℕ} (hab : a = b) (hbc : b = c) (x : ZMod a) :
+    (ringEquivCongr hbc) (ringEquivCongr hab x) = ringEquivCongr (hab ▸ hbc) x := by
```
Comment (eric-wieser) [inline Mathlib/Data/ZMod/Basic.lean:477]: Maybe
```suggestion
lemma ringEquivCongr_ringEquivCongr_apply {a b c : ℕ} (hab : a = b) (hbc : b = c) (x : ZMod a) :
    ringEquivCongr hbc (ringEquivCongr hab x) = ringEquivCongr (hab.trans hbc) x := by
```
since there is no mention of `trans` on the LHS

**Comment by riccardobrasca** [comment]
Thanks!

bors merge
